US06518264B2
The operation is carried out under the conditions described in Example 124 starting with 150 mg of activated 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)benzoic acid on TFP resin (165 μM) and 0.0316 cm3 of N-(3-aminopropyl)imidazole. 54 mg of 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)-N-(3-imidazol-1-ylpropyl)benzamide are thus obtained in the form of a yellow foam [1H NMR spectrum (400 MHz, (CD3)2SO-d6, δ in ppm): 1.97 (mt, 2H), 2.98 (s, 3H), 3.25 (mt, 2H), 3.81 (mt, 2H), 4.02 (t, J=7 Hz, 2H), 4.23 (mt, 2H), 4.79 (s, 1H), from 6.85 to 6.95 (mt, 2H), 7.36 (d, J =8.5 Hz, 4H), 7.46 (d, J=8.5 Hz, 4H), from 7.50 to 7.60 (mt, 2H), 7.84 (broad s, 1H), 7.88 (broad d, J=8 Hz, 1H), 8.56 (t, J=5.5 Hz, 1H)].

reactant | 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)benzoic acid | 150 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC=1C=C(C(=O)O)C=CC1)C1=CC=C(C=C1)Cl | C25H21Cl2NO4S
reactant | N-(3-aminopropyl)imidazole | 0.0316 cm3 | NCCCN1C=NC=C1 | C6H11N3
product | 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)-N-(3-imidazol-1-ylpropyl)benzamide | 54 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC=1C=C(C(=O)NCCCN2C=NC=C2)C=CC1)C1=CC=C(C=C1)Cl | C31H30Cl2N4O3S
